US05650428
The procedure described in Example 125 was repeated, except that (RS)-N-(4-(carbethoxymethyl)phenyl)-2-(4-iodobenzenesulfonylamino)-3-methanesulfonyloxypropanamide (400 mg) was reacted with phenol (123 mg) to obtain (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-iodobenzenesulfonylamino)-3-phenoxypropanamide (252.62 mg).

reactant | (RS)-N-(4-(carbethoxymethyl)phenyl)-2-(4-iodobenzenesulfonylamino)-3-methanesulfonyloxypropanamide | 400 mg | C(=O)(OCC)CC1=CC=C(C=C1)NC(C(COS(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)I)=O | C20H23IN2O8S2
reactant | phenol | 123 mg | C1(=CC=CC=C1)O | C6H6O
product | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-iodobenzenesulfonylamino)-3-phenoxypropanamide | 252.62 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)I)=O | C25H25IN2O6S
